US04654343
N-Ethyl-N-[3-[3-(methylamino)-1,2,4-triazolo[4,3-b]pyridazin-6-yl]phenyl]propanamide
A solution of 5.0 g N-ethyl-N[3-(6-chloro-3-pyridazinyl)phenyl]propanamide and 3.8 g of 4-methylthiosemicarbazide in 200 ml ethanol was refluxed for 18 hours. The mixture was then treated and the product chromatographed as described for Example 70. Recrystallization of the product from acetone-hexane afforded 0.5 g orange crystals, mp 172°-173° C.

reactant | N-ethyl-N[3-(6-chloro-3-pyridazinyl)phenyl]propanamide | 5.0 g | C(C)N(C(CC)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C15H16ClN3O
reactant | 4-methylthiosemicarbazide | 3.8 g | CNC(NN)=S | C2H7N3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-Ethyl-N-[3-[3-(methylamino)-1,2,4-triazolo[4,3-b]pyridazin-6-yl]phenyl]propanamide | 0.5 g | C(C)N(C(CC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)NC | C17H20N6O
